US07442708B2
Methyl 4-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate
8.75 ml (86.37 mmol) of cyclohexene are added to 3.45 g (8.64 mmol) of methyl 4-[(1-(benzyloxy)-2-methylindolizin-3-yl)carbonyl]benzoate in 40 ml of ethanol, in the presence of 690 mg of 10% Pd/C, and the medium is heated under reflux for one hour.

reactant | cyclohexene | 86.37 mmol, 8.75 ml | C1=CCCCC1 | C6H10
reactant | methyl 4-[(1-(benzyloxy)-2-methylindolizin-3-yl)carbonyl]benzoate | 8.64 mmol, 3.45 g | C(C1=CC=CC=C1)OC=1C(=C(N2C=CC=CC12)C(=O)C1=CC=C(C(=O)OC)C=C1)C | C25H21NO4
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 690 mg | [Pd] | Pd
product | Methyl 4-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate | OC=1C(=C(N2C=CC=CC12)C(=O)C1=CC=C(C(=O)OC)C=C1)C | C18H15NO4
